US08022224B2
3-Chloro-4-hydroxyphenylboronic acid (TJA01187)
A dry 250 ml r.b. flask was loaded with 4-bromo-2-chlorophenol (5.00 g, 24.1 mmol) and purged with N2(g). Anhydrous THF (100 mL) added with stirring and the vessel cooled to −78° C. (dry ice/acetone bath). After 30 mins n-BuLi, 2.3 M in hexanes, (12.9 mL, 28.9 mmol) was added dropwise over 20 min. The reaction was left to stir for 1 h. Triisopropyl borate (6.65 mL, 28.9 mmol) was added dropwise with the reaction still at −78° C. After 15 min of stirring at this temperature the dry ice/acetone bath was removed. At about 0° C. 2 M HCl(aq) (5 mL) was added and the reaction left to stir for a further 15 min. THF removed under vacuum and residues taken up in ethyl acetate (50 mL). Distilled H2O (50 mL) was added and the organic layer separated. The aqueous layer was extracted with ethyl acetate (50 mL×2). The organic portions were combined and washed with sat. Na2CO3 (aq). The aqueous layer was separated and treated with 2M HCl (aq) until the pH was about 4. This was then extracted with ethyl acetate (50 mL×2). The organic portions were then dried over MgSO4 and solvent removed. The resultant off white residues were taken up in a minimum of ethyl acetate (2-3 mL) and added to dropwise to hexane (50 mL) with stirring. The white ppt was filtered to give the title compound as an off white solid (0.490 g, 12%).

reactant | 4-bromo-2-chlorophenol | 24.1 mmol, 5.00 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | n-BuLi | [Li]CCCC
reactant | Triisopropyl borate | 28.9 mmol, 6.65 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
product | 3-Chloro-4-hydroxyphenylboronic acid | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
